US05891909
f) 4-[3-(2-Chlorophenylsulfonyloxy)-5-methoxyphenyl]butanal
A solution of 156 mg (0.38 mmol) 2-[3-[3-(2-chlorophenylsulfonyloxy)-5-methoxyphenyl]propyl]-1,3-dioxane, as prepared in the preceding step, in 2 mL of tetrahydrofuran was treated with 4.5 μL of 10% aqueous hydrochloric acid. The reaction mixture was stirred at 60° C. for 1 h. The reaction mixture was diluted with water, extracted into dichloromethane, dried (MgSO4), and purified by flash chromatography (dichloromethane) to give 23.4 mg of the title compound as the minor product of the reaction. 1H-NMR (300 MHz, CDCl3) δ 9.70 (t, 1 H, J=2 Hz), 7.93 (dd, 1 H, J=1.5,8Hz), 7.52-7.9 (m, 2 H), 6.57 (t, 1 H), 6.52 (t, 1 H, J=2 Hz), 6.49 (t, 1 H, J=2 Hz), 3.69 (s, 3 H), 2.52 (t, 2 H, J=7 Hz), 2.33 (dt, 2 H, J=1.5, 7 Hz), 1.80 (pentet, 2 H, J=7 Hz).

reactant | 2-[3-[3-(2-chlorophenylsulfonyloxy)-5-methoxyphenyl]propyl]-1,3-dioxane | 0.38 mmol, 156 mg | ClC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)OC)CCCC1OCCCO1 | C20H23ClO6S
reactant | hydrochloric acid | 4.5 μL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[3-(2-Chlorophenylsulfonyloxy)-5-methoxyphenyl]butanal | 23.4 mg | ClC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)OC)CCCC=O | C17H17ClO5S
